US05969140
A solution of 6-bromo-3,4-dimethoxybenzaldehyde dimethyl acetal (20 ml) in tetrahydrofuran (100 ml) is cooled to -60° C., and thereto is added dropwise a 1.6 M solution of n-butyl lithium in hexane (45.1 ml) over a period of 20 minutes under nitrogen atmosphere. The mixture is reacted at the same temperature for 30 minutes, and thereto is added dropwise a solution of 4-formylpyridine (7.36 g) in tetrahydrofuran (50 ml) over a period of 20 minutes. The reaction mixture is reacted for one hour, and thereto are added water and ethyl acetate (200 ml). The ethyl acetate layer is separated, washed, dried, and concentrated under reduced pressure to remove the ethyl acetate to give 3,4-dimethoxy-6-(4-pyridyl)hydroxymethylbenzaldehyde dimethyl acetal (15.4 g).

reactant | 6-bromo-3,4-dimethoxybenzaldehyde dimethyl acetal | 20 ml | COC(C1=CC(=C(C=C1Br)OC)OC)OC | C11H15BrO4
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-formylpyridine | 7.36 g | C(=O)C1=CC=NC=C1 | C6H5NO
reactant | water | O | H2O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | 45.1 ml | CCCCCC | C6H14
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3,4-dimethoxy-6-(4-pyridyl)hydroxymethylbenzaldehyde dimethyl acetal | 15.4 g | COC(C1=C(C(=C(C=C1C1=CC=NC=C1)OC)OC)CO)OC | C17H21NO5
